US04602035
5-Dimethylamino-2-(2-methoxyphenyl)-2-phenylvaleronitrile hydrochloride
To a solution of diisopropylamine (6.4 ml, 46 mmol) in anhydrous THF (50 ml) maintained at -70° under nitrogen was added n-BuLi/hexane (2.2M, 20 ml, 44 mmol). The solution was stirred at -70° for 15 minutes and brought to -30° C. A solution of alpha-(2-methoxyphenyl)-phenylacetonitrile (9.16 g, 40 mmol) in THF (50 ml) was added dropwise and the resultant solution was allowed to warm to 20° and stirred for 0.5 hour. Distilled 3-dimethylaminopropyl chloride (11.2 g, 92 mmol) was added dropwise and the mixture was refluxed 16 hours. The reaction mixture was cooled and quenched with H2O (5 ml), the volatiles were evaporated in vacuo and the residue was dissolved in dichloromethane (300 ml) and washed with H2O (3×100 ml) until the pH of the aqueous phase became 8. The organic solution was dried over Na2SO4, filtered, and evaporated in vacuo. The residue was dissolved in diethyl ether (300 ml) and saturated with gaseous HCl. The crude precipitated salt (10.4 g, 84%) was collected and dried. Analytically pure material (5.2 g, 38%) was obtained by recrystallization from acetonitrile, m.p. 194.0°-195.5°.

reactant | diisopropylamine | 46 mmol, 6.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi hexane | 44 mmol, 2.2M, 20 ml | [Li]CCCC.CCCCCC
reactant | alpha-(2-methoxyphenyl)-phenylacetonitrile | 40 mmol, 9.16 g | COC1=C(C=CC=C1)C(C#N)C1=CC=CC=C1 | C15H13NO
reactant | 3-dimethylaminopropyl chloride | 92 mmol, 11.2 g | CN(CCCCl)C | C5H12ClN
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-Dimethylamino-2-(2-methoxyphenyl)-2-phenylvaleronitrile hydrochloride | 5.2 g, 38% | Cl.CN(CCCC(C#N)(C1=CC=CC=C1)C1=C(C=CC=C1)OC)C | InChI=1S/C20H24N2O.ClH/c1-22(2)15-9-14-20(16-21,17-10-5-4-6-11-17)18-12-7-8-13-19(18)23-3;/h4-8,10-13H,9,14-15H2,1-3H3;1H
